US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with o-anisidine to yield 2-[(2-methoxyphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | o-anisidine | COC=1C(=CC=CC1)N | C7H9NO
product | 2-[(2-methoxyphenyl)amino]phenylacetic acid | COC1=C(C=CC=C1)NC1=C(C=CC=C1)CC(=O)O | C15H15NO3
